US04492692
A mixture of 2-fluoro-1-triphenylmethylimidazole (0.328 g.) and t-butyl lithium (1.0 ml. of a 2M solution in pentane) in THF (3 ml.) was stirred at -78° for 2 hours. Dimethyl disulphide (0.18 ml.) was added and the mixture was stirred for 0.5 hours at -78° then at -15° for 1 hour. Ether was added and the organic layer washed to neutrality with water and finally with brine. The solution was dried and the solvent evaporated to give 2-fluoro-4-methylthio-1-triphenylmethylimidazole (0.368 g.), m.p. 142°-143°.

reactant | 2-fluoro-1-triphenylmethylimidazole | 0.328 g | FC=1N(C=CN1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H17FN2
reactant | t-butyl lithium | C(C)(C)(C)[Li]
reactant | Dimethyl disulphide | 0.18 ml | CSSC | C2H6S2
reactant | Ether | CCOCC | C4H10O
solvent | pentane | CCCCC | C5H12
solvent | THF | 3 ml | C1CCOC1 | C4H8O
product | 2-fluoro-4-methylthio-1-triphenylmethylimidazole | 0.368 g | FC=1N(C=C(N1)SC)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C23H19FN2S
